US06727264B1
N-{3-[1-((3S)-3-{[(3,5-DICHLORO-2-HYDROXYPHENYL)SULFONYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared Procedure Q1 and Scheme AC using 3,5-dichloro-2-hydroxybenzenesulfonyl chloride and N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 605.4 (M+H)+.

reactant | 3,5-dichloro-2-hydroxybenzenesulfonyl chloride | ClC=1C(=C(C=C(C1)Cl)S(=O)(=O)Cl)O | C6H3Cl3O3S
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
product | N-{3-[1-((3S)-3-{[(3,5-DICHLORO-2-HYDROXYPHENYL)SULFONYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | ClC=1C(=C(C=C(C1)Cl)S(=O)(=O)N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1)O | C30H35Cl2N3O4S
